US08053453B2
Synthesis of 3,5-dihydroxybenzoic N′-(1-(1-(3,4-dimethylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide
From 1-(1-(3,4-dimethylphenyl)-5-hydroxy-3-methyl-1H-pyrazol-4-yl)-ethanone and 3,5-dihydroxybenzoic hydrazide, 57.0 mg of the desired product was obtained in the same manner as in Synthetic Example 1 as a pale red solid (yield 73%).

reactant | 1-(1-(3,4-dimethylphenyl)-5-hydroxy-3-methyl-1H-pyrazol-4-yl)-ethanone | CC=1C=C(C=CC1C)N1N=C(C(=C1O)C(C)=O)C | C14H16N2O2
reactant | 3,5-dihydroxybenzoic hydrazide | OC=1C=C(C(=O)NN)C=C(C1)O | C7H8N2O3
product | 3,5-dihydroxybenzoic N′-(1-(1-(3,4-dimethylphenyl)-3-methyl-5-oxo-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide | 57.0 mg | CC=1C=C(C=CC1C)N1N=C(C(C1=O)=C(C)NNC(C1=CC(=CC(=C1)O)O)=O)C | C21H22N4O4
